US09085576B2
Tert-butyl nitrite (1.60 g, 0.0156 mol, Sigma-Aldrich) was added drop wise to a stirred solution of 6-chloro-5-methylpyridine-3-amine (2.0 g, 0.0140 mol) in trifluoroethanol (10.05 g, 0.100 mol) and TFA (2.42 g, 0.0212 mol) at ambient temperature, followed by slow addition of potassium carbonate (4.40 g). The reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate (2×300 mL). The combined organic layer were washed with brine, dried over sodium sulfate and concentrated. The crude residue was purified by silica gel column chromatography, eluting with 5% ethyl acetate in petroleum ether to give 2-chloro-3-methyl-5-(2,2,2-trifluoroethoxy)pyridine (1.30 g, 41.13% yield) as a reddish oil. MS m/z=225.02 [M+H]+.

reactant | Tert-butyl nitrite | 0.0156 mol, 1.60 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 6-chloro-5-methylpyridine-3-amine | 0.0140 mol, 2.0 g | ClC1=C(C=C(C=N1)N)C | C6H7ClN2
reactant | trifluoroethanol | 0.100 mol, 10.05 g | C(C(F)(F)F)O | C2H3F3O
reactant | TFA | 0.0212 mol, 2.42 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | 4.40 g | C([O-])([O-])=O.[K+].[K+]
product | 2-chloro-3-methyl-5-(2,2,2-trifluoroethoxy)pyridine | 1.30 g, 41.13% yield | ClC1=NC=C(C=C1C)OCC(F)(F)F | C8H7ClF3NO
